datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[S:12]=[C:13]([C:14]([S:15][H:19])([H:17])[H:18])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:17])[H:7])([H:5])[H:6].[S:12]=[C:13]([C:14]([S:15][H:19])[H:18])[H:16],4.184
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]=[O:4])([H:5])([H:6])[H:7].[O:11]([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[O:4])[O:11][H:13])[H:12])([H:5])([H:6])[H:7],170.707
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:15])[H:6])([H:4])[H:5].[C:9]([C:10]([S:11][H:17])[H:16])([H:12])([H:13])[H:14],58.1576
[C:0]([O:1][C:2]([O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[O:9][H:10]>>[C:0]([O:1][C:2]([O:3][O:9][H:10])([H:7])[H:8])([H:4])([H:5])[H:6],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:18][O:29][O:30],199.11656
[N:0][H:1].[O:2][H:3]>>[H:1][O:2][H:3].[N:0],-2.05016
[C:0]([C:1]([C:2]([O:3][H:10])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6]>>[C:0]([C:1]([C:2]([O:3][H:10])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6],108.784
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])[O:6][O:7][H:16])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])=[O:6])([H:8])([H:9])[H:10].[O:7][H:16],6.276
[C-:5]#[O+:6].[C:0]([H:1])([H:2])([H:3])[H:4]>>[C:0]([H:2])([H:3])([H:4])[C:5]([H:1])=[O:6],363.59
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([S:12][H:18])[C:13](=[S:14])[H:19])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:15])([H:16])[H:17])([S:12][H:18])[C:13](=[S:14])[H:19],84.0984
[C:0]([C:1]([C:2](=[C:3]([c:4]1[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]1[H:20])[H:15])[H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([H:13])[C:2]([H:14])=[C:3]([H:15])[C:4]2[C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]2[H:20])([H:10])([H:11])[H:12],135.5616
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7][H:8]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][S:7][H:8],-6.276
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:22][H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:7][O:22][H:23],0.0
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11],24.2672
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:15])([H:17])[H:18])[H:16])([O:7][O:8][H:19])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11],125.9384
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](#[C:19][C:20]([C:21]([H:24])([H:25])[H:26])[H:23])[H:22]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:20]([C:19]#[C:18][H:22])([C:21]([H:24])([H:25])[H:26])[H:23])[H:10],35.1456
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23],28.4512
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:6])[H:7].[H:5][O:15][O:14][C:13]([H:16])([H:17])[H:18],81.08592
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[C:14]([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[H:8][C:14]([H:15])([H:16])[H:17],23.7442
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:8])([H:9])[H:10])([C:6]([H:11])([H:12])[H:13])[C:7]([H:14])([H:15])[H:16],65.5214
[C:0]([O:1])([H:2])([H:3])[H:4].[C:5]([H:6])([H:7])[H:8]>>[C:0](=[O:1])([H:3])[H:4].[H:2][C:5]([H:6])([H:7])[H:8],0.0
